US06713635B2
D. Preparation of Methyl (Z)-2-(2-oxotetrahydro-1H-1-pyrrolyl)-2-butenoate (Precursor A2)
A 100 ml flask fitted with a magnetic stirring bar and a Dean-Stark trap was charged with methyl 2-oxobutanoate (7.5 g, 73 mmol), toluene (50 ml, 7 vol) and 2-pyrrolidinone (8.4 ml, 111 mmol, 1.5 equiv) followed by dropwise addition of POCl3 (1.6 ml, 20 mmol, 0.27 equiv). The reaction mixture was stirred under reflux with azeotropic removal of water via the Dean-Stask trap for 8 hours. After cooling down the solution was washed with 10% aq KHSO4 (2×3 vol). The aqueous phase was saturated with NaCl and back extracted with toluene (1×6 vol). The combined organic phase was dried over MgSO4, filtered and concentrated in vacuo to afford crude material (7.5 g) as an orange mobile oil. The crude oil was distilled (92-94° C., 0.1 mm Hg) and gave pure product (4.7 g, 60%) as a colourless oil.

reactant | methyl 2-oxobutanoate | 73 mmol, 7.5 g | O=C(C(=O)OC)CC | C5H8O3
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-pyrrolidinone | 111 mmol, 8.4 ml, 1.5 equiv | N1C(CCC1)=O | C4H7NO
reactant | POCl3 | 20 mmol, 1.6 ml, 0.27 equiv | O=P(Cl)(Cl)Cl | Cl3OP
solvent | water | O | H2O
product | Methyl (Z)-2-(2-oxotetrahydro-1H-1-pyrrolyl)-2-butenoate | 4.7 g, 60% | O=C1N(CCC1)\C(\C(=O)OC)=C/C | C9H13NO3
